US05026855
2,2,8-trimethyl-5-(4-chloro-α-chlorobenzyl)-pyrido-[4,3-e]-1,3-dioxane
88 mg (0.275 mmole) of (+)-2,2,8-trimethyl-5-(4-chloro-α-hydroxybenzyl)-pyrido-[4,3-e]-1,3-dioxane are poured into a 5 ml flask, dissolved in 1 ml of methylene chloride and the flask is sealed under an atmosphere of nitrogen. 22 μl (0.27 mmole) of anhydrous pyridine are injected via a glass syringe. 36 μl (0.54 mmole) of thionyl chloride are then added dropwise. At disappearance (2 hours later) of the starting material (checked by TLC), the solvent is evaporated off under reduced pressure.

reactant | (+)-2,2,8-trimethyl-5-(4-chloro-α-hydroxybenzyl)-pyrido-[4,3-e]-1,3-dioxane | 0.275 mmole, 88 mg | CC1(OC2=C(CO1)C(=CN=C2C)C(C2=CC=C(C=C2)Cl)O)C | C17H18ClNO3
reactant | pyridine | 0.27 mmole, 22 μl | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.54 mmole, 36 μl | S(=O)(Cl)Cl | Cl2OS
solvent | methylene chloride | 1 ml | C(Cl)Cl | CH2Cl2
product | 2,2,8-trimethyl-5-(4-chloro-α-chlorobenzyl)-pyrido-[4,3-e]-1,3-dioxane | CC1(OC2=C(CO1)C(=CN=C2C)C(C2=CC=C(C=C2)Cl)Cl)C | C17H17Cl2NO2
